US08957074B2
Following general N—C coupling procedure 1, hexahydro-pyrido[1,2-a]pyrazin-1-one (0.300 g, 1.945 mmol), was combined with 5-bromo-2-nitropyridine (0.395 g, 1.945 mmol, 1.0 eq), and gave 2-(6-Nitro-pyridin-3-yl)-hexahydro-pyrido[1,2-a]pyrazin-1-one (0.481 g, 1.567 mmol) in 81% yield. 1H NMR (400 MHz, CDCl3) δ ppm 1.27-1.53 (m, 2H) 1.54-1.61 (m, 4H) 1.66-1.81 (m, 1H) 1.94 (d, J=12.55 Hz, 1H) 2.22 (td, J=11.80, 3.01 Hz, 1H) 2.39 (d, J=12.55 Hz, 1H) 2.68-2.83 (m, 2H) 2.96-3.12 (m, 2H) 3.49 (d, J=3.51 Hz, 1H) 3.56 (dd, J=10.79, 2.26 Hz, 1H) 4.16 (td, J=11.29, 4.52 Hz, 1H) 8.13 (dd, J=8.53, 2.51 Hz, 1H) 8.29 (d, J=8.53 Hz, 1H) 8.68 (d, J=2.51 Hz, 1H); MS m/z 277.2 (M+H)+.

reactant | hexahydro-pyrido[1,2-a]pyrazin-1-one | 1.945 mmol, 0.300 g | C1(C=2N(CCN1)CCCC2)=O | C8H12N2O
reactant | 5-bromo-2-nitropyridine | 1.945 mmol, 0.395 g, 1.0 eq | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
product | 2-(6-Nitro-pyridin-3-yl)-hexahydro-pyrido[1,2-a]pyrazin-1-one | 1.567 mmol, 0.481 g, 81% yield | [N+](=O)([O-])C1=CC=C(C=N1)N1C(C2N(CC1)CCCC2)=O | C13H16N4O3
